US06525220B2
N-(2-Amino-5-methoxyphenyl)-N-methylcarbamic acid t-butyl ester (Exemplification Compound Number 5-8)
To a suspension of N-(5-methoxy-2-nitrophenyl)-N-methylcarbamic acid t-butyl ester (5.8 g) in toluene (55 ml) was added 7.5% palladium on carbon (1.2 g, which contain 50% water) and the air of the reaction vessel was replaced with nitrogen and the mixture was stirred under a hydrogen atmosphere at 40° C. for 3 hours. After the reaction the mixture was cooled to room temperature and the hydrogen in the reaction vessel was replaced with nitrogen. The palladium on carbon was removed by filtration and the filtrate was evaporated in vacuo to 22 ml. To this solution was slowly added methylcyclohexane (44 ml) and the precipitated crystals were filtered to give the title compound (4.4 g, yield 85%).

reactant | N-(5-methoxy-2-nitrophenyl)-N-methylcarbamic acid t-butyl ester | 5.8 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C13H18N2O5
reactant | hydrogen | [H][H] | H2
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
product | N-(2-Amino-5-methoxyphenyl)-N-methylcarbamic acid t-butyl ester | 4.4 g, yield 85% | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OC)N)=O | C13H20N2O3
